US08735411B2
2-(Phenethylthio)acetic acid
In a 1 L flask, solid sodium hydroxide (10.50 g, 0.263 mol) was dissolved in MeOH (150 ml), and then slowly combined with 2-mercaptoacetic acid (11.51 g, 0.125 mol). The mixture was then treated in portions with (2-chloroethyl)benzene (19.33 g, 0.138 mol), heated at reflux for 10 hours, stirred for 6 hours at ambient temperature, concentrated to dryness on a rotovap, treated with water (500 mL) and extracted with Et2O (2×150 mL). These Et2O extractions were discarded. The aqueous layer was acidified to pH ˜2 with concentrated HCl and extracted with Et2O (2×150 mL). These Et2O extractions were combined, washed with brine, dried (MgSO4), filtered and concentrated to provide the title compound. 1H NMR (CDCl3) δ 2.93 (s, 4H), 3.25 (s, 2H), 7.17-7.34 (m, 5H); MS (M+NH4)+ m/z 214.

reactant | sodium hydroxide | 0.263 mol, 10.50 g | [OH-].[Na+]
reactant | 2-mercaptoacetic acid | 0.125 mol, 11.51 g | SCC(=O)O | C2H4O2S
reactant | (2-chloroethyl)benzene | 0.138 mol, 19.33 g | ClCCC1=CC=CC=C1 | C8H9Cl
solvent | MeOH | 150 ml | CO | CH4O
product | 2-(Phenethylthio)acetic acid | C(CC1=CC=CC=C1)SCC(=O)O | C10H12O2S
